US08703096B2
N-(4-acetyl-2-methylphenyl)-2,2,2-trifluoroacetamide (K4).
2,2,2-trifluoro-N-o-tolylacetamide (8.0 g; 39.4 mmol) was dissolved in 20 mL CS2. Bromoacetic bromide (8.4 g; 68.3 mmol) was added dropwise. AlCl3 (16.0 g; 120 mmol) was added in portions, with drying tube attached to the reaction flask. The reaction mixture was refluxed overnight. After reaction, the solvent was removed. Ice and water were added, and some yellow solid precipitated. The solid was isolated by filtration, and purified by silica gel column chromatography, to afford 3.8 g (yield 39%) of product as off-white solid. 1H NMR (300 MHz; CDCl3), δ 8.30 (s, 1H, Ar—H), 7.91 (brs, 1H, NH), 7.81 (d, 3JHH=8.2 Hz, 1H, Ar—H), 7.36 (d, 3JHH=7.9 Hz, 1H, Ar—H), 2.60 (s, 3H, COCH3), 2.36 (s, 3H, CH3).

reactant | 2,2,2-trifluoro-N-o-tolylacetamide | 39.4 mmol, 8.0 g | FC(C(=O)NC1=C(C=CC=C1)C)(F)F | C9H8F3NO
reactant | Bromoacetic bromide | 68.3 mmol, 8.4 g | BrCC(=O)Br | C2H2Br2O
reactant | AlCl3 | 120 mmol, 16.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CS2 | 20 mL | C(=S)=S | CS2
product | N-(4-acetyl-2-methylphenyl)-2,2,2-trifluoroacetamide | 3.8 g, yield 39% | C(C)(=O)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)C | C11H10F3NO2
